Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Lightheaded secondary to smell of gas in her
apartment.

 
Major Surgical or Invasive Procedure:
None.
 
History of Present Illness:
Briefly, ___ year old post-doctoral student with no prior
psychiatric history who comes in complaining of multiple
exposures to gas and radiation.  
  
 On interview, patient reports smelling gas in her apartment 
that
was making her lightheaded. She went for a walk and then called
her landlord to make him aware of her concern. She explains that
he told her that a gasoline-soaked mat had been found in the
basement 2 weeks earlier. Despite the intense smell, she went to
sleep as she had no where to go and had an appointment with
occupational health and safety the next morning to discuss a
chemical exposure that occurred last ___ in the lab she is
working in. Reports telling occupational health about both the
chemical exposure and gas in her apartment given her concern 
that
there could be an interaction between the two. She is concerned
that this exposure is affecting her cognition stating that she 
is
"not cognitively capable" of fulfilling her post-doc
responsibilities.

The patient says that she feels targeted based on several things
have happened and expresses concern that the two events 
described
above (apartment exposure and lab exposure) may not be 
exclusive.
She states that she has reason to believe that a particular
person may be involved who she does not know personally & has
never interacted with, but is known by mutual acquaintances and
in her field of study. She does not think this person has
malicious intent towards her, but does think he may not be 
stable
based on what she has heard about him. 

Patient reports that she had a "very vague inclination" that 
this
was going on in ___ (she was working in a different lab, not in
___, at this time), but admits that this "seemed very crazy".
She was able to forget about it for some time, but her fears
resurfaced recently when her PI sent her a paper written by the
same person (she had read a paper by him in ___. She reports
that it then "clicked for her...that this was a bad person." She
continues, "this is my career path...I'm from the United 
States."

Patient is in her first year of her first post-doc, states that
she's "getting through it, but it's been getting worse." She
feels uncomfortable at work because everyone knows what is going
on. She states that her co-workers know a lot about her but she
doesn't know a lot about them which feels "really creepy." She
also feels that she is constantly anticipating the next thing
that is going to happen at work, which is very stressful. When
asked further about feelings of paranoia, patient denies,
explaining that some people in her neighborhood may have
initially said some negative things towards her when she first
moved there but that everyone is currently very nice in the 
area.

Patient says her parents are partially aware of what she has 
been
experiencing but are not aware of the full extent as she does 
not
want to burden them. She mentions familial stress following the
death of two maternal aunts and her step-brother's overdose. 

Patient does not feel like she needs to be on the inpatient
psychiatric unit and has reservations about starting new
medications as she has had bad experiences with them before
(benzodiazepines (etizolam) and Adderall). 

Psych ROS: 
Depressive: Patient reports increase in sleep (previously ___
hrs/night now ___ hrs/night), reduced appetite (though endorses
at least 1 meal/day; denies weight loss), reports decreased
focus/concentration, denies thoughts of self-harm, prior SIB, or
current SI/HI; does endorse passive SI in ___ (denies thoughts
of plan or intent)
Anxious: denies anxiety or recent panic attacks (though reports
history of anxiety)
Mania: denies symptoms of mania
Psychosis: +paranoia, denies AVH
  
 ROS: Patient reports mild lightheadedness (residual/decreased),
and mild frontal HA, otherwise negative ROS

 
Past Medical History:
Past psychiatric history: Per Dr. ___
consult note from ___, and subsequent psychiatry CL notes in
OMR, confirmed with patient and updated as relevant:
Diagnosis: 
- ADHD (feels this was a misdiagnosis)
Hospitalizations: 
- None 
Current treaters and treatment: 
- Dr. ___ (sees weekly/bi weekly since ___ per request
of lab)
Medication and ECT trials: 
- Trazodone 
- has tried Etizolam and Adderall in the past but did not like
the effect
Self-injury:
- Denies 
Harm to others:
- Denies 
Access to weapons:
- Denies 
 
 Past medical history: Per Dr. ___ 
consult
note from ___, and subsequent psychiatry CL notes in OMR,
confirmed with patient and updated as relevant:
- left groin rash (uses a topical anti-fungal)

 Medications:
Trazodone 50mg QHS (prescription: ___ tablet qhs PRN for
sleep); patient reports previously taking 25mg (tapered down 
from
50mg) but has recently been taking 50mg over past week

Allergies: NKMA

 
Social History:
Substance use history: Per Dr. ___
consult note from ___, and subsequent psychiatry CL notes in
___, confirmed with patient and updated as relevant:
ETOH: last drink ___ weeks ago (at most had 1 glass of
wine/night), denies ever blacking out or having withdrawal
symptoms 
TOBACCO: denies
OTHER ILLICIT DRUGS: denies

 Forensic history: Per Dr. ___ consult
note from ___, and subsequent psychiatry CL notes in ___,
confirmed with patient and updated as relevant:
Arrests: denies
Convictions and jail terms: denies
Current status (pending charges, probation, parole)

 Personal and Social History: ___
Family History:
Family psychiatric history: Per Dr. ___
consult note from ___, and subsequent psychiatry CL notes in
___, confirmed with patient and updated as relevant:
- Denies family history of psychiatric history
- Denies family history of suicide

 
Physical Exam:
VS: T: 98.3, BP: 108/75, HR: 62, O2 sat: 99% on RA

General: young female in NAD. Well-nourished, well-developed.
Appears stated age.
 HEENT: Normocephalic, atraumatic. EOMI. Oropharynx clear.
 Neck: Supple.
 Back: No significant deformity.
 Lungs: CTA ___. No crackles, wheezes, or rhonchi.
 CV: RRR, no murmurs/rubs/gallops. 
 Abdomen: +BS, soft, nontender, nondistended.
 Extremities: No clubbing, cyanosis, or edema.
 Skin: No obvious rashes, abrasions, scars, or lesions. 

Neurological:
 Cranial Nerves:
 I: Not tested.
 II: Not tested
 III, IV, VI: EOMI intact ___ without nystagmus.
 V, VII: Facial strength and sensation intact and symmetric.
 VIII: Hearing intact to voice
 IX, X: Not assessed
 XI: trapezius normal bilaterally.
 XII: Tongue midline without fasciculations.
 Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength: full power ___ throughout. Sensation: 
Intact
to light touch throughout. 
 Gait: Steady. Normal stance and posture. No truncal ataxia.
 Romberg: Not tested.

Cognition: 
  Wakefulness/alertness: awake and alert
  Attention: intact to interview, MOYB without difficulty
  Orientation: oriented to person, time, place, situation
  Executive function (go-no go, Luria, trails, FAS): not tested
  Memory: intact to recent and previous events
  Fund of knowledge: ___ previous presidents
  Calculations: $2.25= 9 quarters
  Abstraction: watch/ruler= form of measurement 
  Proverb: Don't judge a book by it's cover: "you don't know
whats on the pages of the book by it's cover"
  Speech: normal rate, volume, and tone
  Language: native ___ speaker, no paraphasic errors,
appropriate to conversation

Mental Status:
 Appearance: No apparent distress, appears younger than stated
age, well groomed, appropriately dressed in hospital gown, short
brown hair
 Behavior: Calm, cooperative, friendly, pleasant, intense eye
contact, no psychomotor agitation or retardation
 Mood and Affect: "fair" / euthymic though somewhat blunted,
congruent with mood
 Thought Process: linear, coherent. No LOA.
 Thought Content: denies SI/HI/AH/VH, evidence of delusions vs.
paranoia 
 Judgment and Insight: limited/poor

 
Pertinent Results:
___ 03:46PM URINE  UCG-NEGATIVE
___ 03:46PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 03:46PM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 03:46PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-TR BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 03:46PM URINE  RBC-1 WBC-1 BACTERIA-FEW YEAST-NONE 
EPI-2 TRANS EPI-<1
___ 03:46PM URINE  MUCOUS-RARE
___ 12:09PM   GLUCOSE-94 UREA N-13 CREAT-0.7 SODIUM-137 
POTASSIUM-4.5 CHLORIDE-100 TOTAL CO2-26 ANION GAP-16
___ 12:09PM   estGFR-Using this
___ 12:09PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 12:09PM   WBC-5.9 RBC-4.75 HGB-14.4 HCT-43.9 MCV-92 
MCH-30.3 MCHC-32.8 RDW-12.4 RDWSD-42.2
___ 12:09PM   NEUTS-63.7 ___ MONOS-10.0 EOS-2.4 
BASOS-0.8 IM ___ AbsNeut-3.76 AbsLymp-1.35 AbsMono-0.59 
AbsEos-0.14 AbsBaso-0.05
___ 12:09PM   PLT COUNT-___.) Legal/Safety:
Patient signed in voluntarily on admission which was accepted.  
She was restricted to the unit and deemed inappropriate for 
fresh air groups given her paranoia and self-reported concerns 
for safety.  She was monitored on 15 minute checks (least 
restrictive) with monitored access to sharps.  On ___ she 
signed a 3 day notice.

2.) Psychiatric:
The patient on admission appeared to be somewhat guarded and 
paranoid, sharing ongoing concerns for contamination within her 
lab and fears that she was being harassed/that her work was 
being sabotaged by coworkers.  Despite this she had remained 
able to attend and perform her work though, per her supervisor, 
her performance appeared to be compromised.  These persecutory 
delusions did seem bizarre in that the patient complained, for 
example, of exposure to radiation causing hair to sprout from 
her face which quickly regressed on removal of the contaminant.  


She was hesitant to initiate antipsychotic medication but 
eventually accepted risperidone 0.5 mg qHS due to the discomfort 
that her psychosis was causing.  Home trazodone ___ mg PO qHS 
PRN insomnia was offered along with hydroxyzine 25 mg PO q6h PRN 
anxiety.  Several days into the admission, following the 
initiation of risperidone, the patient was noted to think and 
act more bizarrely, requesting to wash her clothes despite their 
appearing clean complaining of contamination and exposure; she 
requested to speak with a female staff member complaining that 
her most recent relationship "ruined her sexually for [her] 
subsequent partners." 

She additionally shared concerns that "the lesbians in [her] lab 
were being too aggressive, and all [her] gay friends know it".  
This was felt to be a new delusion and as such, and given the 
bizarre nature of her thoughts, she was presumed more likely to 
have a primary psychotic disorder than a delusional disorder.  
She improved with titration of Risperidone ultimately to 1.5 mg 
qHS, becoming less paranoid and less bizarre and more easily 
engaged with improved range of affect.  Titration was admittedly 
a slow-going process as patient had not previously accepted 
medication and was wary of the need; prior to discharge, 
however, she was able to reflect that the medication allowed her 
to "perceive things more accurately".  She was noted to maintain 
safety and behavioral control throughout her stay and was 
ultimately discharged to occupational ___ as she consistently 
denied SI/HI and was thought capable of caring for herself in 
the community.  

3.) Medical:
No acute medical issues.
  
4.) Social Work / Dispo:
The patient's progress was communicated to her outpatient 
psychiatrist and treators in occupational health who had 
referred her to the hospital.  Follow up was made with these 
individuals on discharge.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. TraZODone ___ mg PO QHS:PRN insomnia 

 
Discharge Medications:
1.  HydrOXYzine 25 mg PO Q6H:PRN anxiety. insomnia  
RX *hydroxyzine HCl 25 mg 1 tab by mouth Daily PRN Disp #*30 
Tablet Refills:*0 
2.  RisperiDONE 1.5 mg PO QHS 
RX *risperidone 0.5 mg 3 tablet(s) by mouth every night at 
bedtime and take one additional tablet daily as needed for 
anxiety Disp #*120 Tablet Refills:*0   
3.  TraZODone ___ mg PO QHS:PRN insomnia 
RX *trazodone 50 mg 0.5 (One half) tablet(s) by mouth qHS PRN 
Disp #*15 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Psychosis, unspecified (primary psychotic disorder vs delusional 
disorder)

 
Discharge Condition:
VS:   Temp 97.4 BP 97/66 HR 85 RR 16 O2 sat 97% 

Appearance/Behavior- adequately groomed young female with short 
brown
hair. Calm, cooperative with interview.
Speech- Normal volume and prosody, articulate
Mood/Affect- 'Better today'/ Euthymic, mood-congruent
Thought process- Linear, goal-oriented
Thought content- Denies SI/HI/AVH, positive for some delusional
content (still mentions contaminants in her lab)
Insight/Judgment-  Fair/Fair  

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___